US04033994
4-(p-Menth-3-oyloxy)-2,2-dimethyl-1,3-dioxolan (3 g.) was stirred for 5 minutes at room temperature with 90% CF3COOH (15 ml.), and the CF3COOH removed in vacuo. The residual oil was stirred for 4 hours at room temperature with a solution of K2CO3 (7%) in water:methanol (2:5) (50 ml.). The methanol was removed on a rotary evaporator, water (30 ml.) added and the mixture extracted four times with ether. The combined extracts were dried (MgSO4). Removal of the ether left an oil which was distilled to yield 1-(p-menth-3-oyl)glycerol as a colourless liquid b.p. 135° /0.1 mm.

reactant | 4-(p-Menth-3-oyloxy)-2,2-dimethyl-1,3-dioxolan | 3 g | C1(CC(C(CC1)C(C)C)C(=O)OC1OC(OC1)(C)C)C | C16H28O4
reactant | CF3COOH | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(p-menth-3-oyl)glycerol | C1(CC(C(CC1)C(C)C)C(=O)OCC(O)CO)C | C14H26O4
